US04016148
In a manner analogous to that given in Example 1 (b), from the benzylamine salt of (1R)-1-[(benzyloxycarbonyl-glycyl)amino] -ethylphosphonic acid there was obtained (1R)-1 -glycylamino-ethylphosphonic acid of melting point 279°-281° C (decomposition); [α]D20 =- 69.4°(c = 1% in water).

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | (1R)-1-[(benzyloxycarbonyl-glycyl)amino] -ethylphosphonic acid | C(C1=CC=CC=C1)OC(=O)NCC(=O)N[C@@H](C)P(O)(O)=O | C12H17N2O6P
product | (1R)-1 -glycylamino-ethylphosphonic acid | NCC(=O)N[C@@H](C)P(O)(O)=O | C4H11N2O4P
